US07776847B2
A solution of N-tert-butyl-3-chlorobenzo[d]isothiazole-7-sulfonamide (260 mg, 0.85 mmol) in 1,3-diaminopropane (1 mL) was allowed to stir at room temperature for 3h. The dark brown reaction mixture was then poured over water (10 mL), extracted with ethyl acetate and the combined organic layers were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 3-(3-aminopropylamino)-N-tert-butylbenzo[d]isothiazole-7-sulfonamide (271 mg) as a pale yellow solid. 1H NMR (300 MHz, CD3OD): 8.17 (dd, 1H), 8.01 (dd, 1H), 7.55 (t, 1H), 3.58 (t, 2H), 2.81 (t, 2H), 1.86-1.95 (m, 2H), 1.17 ppm (s, 9H). MW=342 confirmed by LC-MS, tr=7.95 min (Method Y) MH+=343.

reactant | N-tert-butyl-3-chlorobenzo[d]isothiazole-7-sulfonamide | 0.85 mmol, 260 mg | C(C)(C)(C)NS(=O)(=O)C1=CC=CC=2C(=NSC21)Cl | C11H13ClN2O2S2
reactant | water | 10 mL | O | H2O
reactant | 1,3-diaminopropane | 1 mL | NCCCN | C3H10N2
product | 3-(3-aminopropylamino)-N-tert-butylbenzo[d]isothiazole-7-sulfonamide | 271 mg | NCCCNC1=NSC2=C1C=CC=C2S(=O)(=O)NC(C)(C)C | C14H22N4O2S2
